US04788312
To a 100 ml glass ampoule equipped with a magnetic stirring bar was added hexachloroplatinic acid (0.15 ml, 0.090M solution in isopropanol). After the solvent was removed under reduced pressure, 1,7-octadiene (14.39 g, 130.6 mmoles) and dichlorosilane (2.08 g, 20.82 mmoles) were condensed in vacuo into the ampoule. The ampoule was sealed off, placed in an oil bath, and heated gradually to the final reaction temperature of 60° C. at which it was kept for 120 hours. After opening the ampoule into a vacuum line and observing no condensibles, the excess 1,7-octadiene was distilled off to yield 6.02 g (90.0% yield) of bis(octenyl)dichlorosilane. Step (b)

reactant | 1,7-octadiene | 130.6 mmoles, 14.39 g | C=CCCCCC=C | C8H14
reactant | dichlorosilane | 20.82 mmoles, 2.08 g | Cl[SiH2]Cl | Cl2H2Si
catalyst | hexachloroplatinic acid | 0.090M, 0.15 ml | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | bis(octenyl)dichlorosilane | 6.02 g, 90.0% yield | C(=CCCCCCC)[Si](Cl)(Cl)C=CCCCCCC | C16H30Cl2Si
